US04465783
(A) Dispersing of titanium trichloride-butyl benzoate
The mixture which was homogenised consisted of 119 g of titanium trichloride, 26 cm3 of butyl benzoate, 390 cm3 of toluene and 3 g of polystyrene ("Lustrex" HF 66). After operating the homogeniser at maximum power for 2.75 minutes, the contents of the flask had formed an immobile gel-like product and the temperature had risen to above 50° C. Homogenisation was terminated and 500 cm3 of toluene were added to assist in the transfer of the dispersed solid to a storage vessel.

reactant | titanium trichloride | 119 g | [Cl-].[Cl-].[Cl-].[Ti+3]
reactant | butyl benzoate | 26 cm3 | C(C1=CC=CC=C1)(=O)OCCCC | C11H14O2
solvent | toluene | 390 cm3 | C1(=CC=CC=C1)C | C7H8
product | titanium trichloride butyl benzoate | [Cl-].[Cl-].[Cl-].[Ti+3].C(C1=CC=CC=C1)(=O)OCCCC | InChI=1S/C11H14O2.3ClH.Ti/c1-2-3-9-13-11(12)10-7-5-4-6-8-10;;;;/h4-8H,2-3,9H2,1H3;3*1H;/q;;;;+3/p-3
